Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L facial tumor
 
Major Surgical or Invasive Procedure:
Left facial resection and graft placement
PEG feeding tube placement

 
History of Present Illness:
CC: invasive advanced basal cell cancer causing discomfort 
closing her mouth; some drooling of food because of the 
retraction of her lips; difficulty in closing her eyes; some 
tearing because of retraction of her lower eyelid and some pain 
and discomfort in the cheek area itself and this ligament of her 
face.  
.  
HPI: ___ year old woman with dementia and advanced erosive basal 
cell  
carcinoma involving the left cheek, nasal cavity, palate, and  
lateral facial region. She was admitted for surgical resection 
and will need a prosthesis and by a prosthodontist to have a 
preliminary prosthesis made that will eventually shell the 
defect and provide her some cosmesis.  

 
Past Medical History:
Hypertension, anemia, renal failure, hypothyroidism, 
hyperlipidemia, paranoid, dementia, and chronic psychosis. 
Excision of left-sided facial carcinoma and type 2 diabetes, and 
history of prior alcohol abuse. 
 
Social History:
___
Family History:
None
 
Physical Exam:
VS: 96.2 128/84 HR 69 RR20 O2sat 95% on RA

General: Alert, oriented, mild respiratory difficulty with 
audible wheeze, difficult to understand when she speaks.  
HEENT: Sclera anicteric, dry MM, large defect on left cheek 
extending to left orbit. Slight erythema at wound edge. no odor, 
no sloughing tissue. Lips sutured midline. 
Neck: supple, JVP 2-3 cm above clavicle 
Lungs: mild crackles at bases bilaterally
CV: regular rate, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds 
hypoactive, no rebound tenderness or guarding, no organomegaly, 
Gtube without dressing, ~10 in out of abd, clean dressing, no 
erythema.   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, 
edema
Neuro: moving all extremities
Groin: minimal erythematous satellite lesions extended to 
buttocks crease, labial folds
.

 
Pertinent Results:
Admit labs:
___ 04:00PM BLOOD WBC-17.8* RBC-4.08* Hgb-12.4 Hct-36.5 
MCV-90 MCH-30.3 MCHC-33.9 RDW-12.8 Plt ___
___ 04:00PM BLOOD Glucose-222* UreaN-17 Creat-0.9 Na-137 
K-4.6 Cl-107 HCO3-22 AnGap-13
___ 04:00PM BLOOD Calcium-7.4* Phos-3.2 Mg-1.4*
___ 04:50AM BLOOD TSH-0.58
___ 04:50AM BLOOD T4-8.1 T3-52*

Cardiac enzymes:
___ 08:23AM BLOOD CK-MB-3 cTropnT-2.40*
___ 09:10PM BLOOD CK-MB-4 cTropnT-2.28*
___ 06:39PM BLOOD CK-MB-5 cTropnT-1.95*
___ 03:30AM BLOOD CK-MB-6 cTropnT-1.22*
___ 04:50AM BLOOD CK-MB-14* MB Indx-3.1 cTropnT-0.95*

UA
___ 09:12PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-MOD
___ 09:12PM URINE Color-Yellow Appear-Hazy Sp ___
___ 09:12PM URINE RBC-6* WBC-25* Bacteri-FEW Yeast-FEW 
Epi-1 TransE-<1

Discharge labs:
___ 07:30AM BLOOD WBC-12.6* RBC-3.18* Hgb-9.7* Hct-30.5* 
MCV-96 MCH-30.6 MCHC-31.9 RDW-16.2* Plt ___
___ 07:30AM BLOOD Glucose-310* UreaN-34* Creat-1.1 Na-139 
K-4.9 Cl-98 HCO3-30 AnGap-16
___ 05:45AM BLOOD ALT-16 AST-19 AlkPhos-55 TotBili-0.4
___ 07:30AM BLOOD Calcium-8.7 Phos-3.3 Mg-2.0

URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 ORGANISMS/ML.. 
      YEAST.    ~5000/ML.  SECOND MORPHOLOGY. 

Blood Culture:
Blood Culture, Routine (Final ___:    NO GROWTH. 

Blood Culture, Routine (Final ___:    NO GROWTH. 

Studies:

Portable CXR ___
FINDINGS: Patient's positioning compromises the quality of the 
film as well as comparison with prior radiographs. However, 
bilateral perihilar haziness with upper redistribution secondary 
to mild pulmonary vascular congestion seems unchanged. The right 
hemidiaphragm is elevated. A left lower lobe radiopacity is 
stable from prior radiographs and likely represents moderate 
atelectasis. No evidence of pneumothorax. Mild cardiomegaly is 
stable. 
  
IMPRESSION: Unchanged mild pulmonary edema. Bibasilar 
atelectasis, left 
worse than right.  

Chest CT:
CT OF THE CHEST WITH AND WITHOUT IV CONTRAST: There is no 
axillary, 
mediastinal, or hilar lymphadenopathy. The pulmonary arteries 
are well 
opacified. There are no filling defects. A small left pleural 
effusion is 
identified. There is atelectasis in the right lower lobe. There 
is left 
lower lobe consolidation. A small amount of pericardial fluid is 
noted. There are no lung nodules or masses. An NG tube is 
identified. 
  
Limited views of the upper abdomen demonstrate a normal 
gallbladder, liver, and spleen. A 1.2 cm nodule in the left 
adrenal gland measures 16 Hounsfield units, is thus 
indeterminate but most consistent with an adenoma. A 3.5 cm 
hypodense lesion in the right kidney at mid pole measures 13 
Hounsfield units and is consistent with a cyst. 
  
On bone windows there is loss of height of T12 and L1 and T9. 
This is of 
indeterminate age. 
  
IMPRESSION: 
1. No evidence of PE.   
2. Consolidation in the left lower lobe concerning for 
pneumonia. Small 
pleural effusion. 
3. Compression deformity of several lower thoracic vertebral 
bodies and of L1 are of indeterminate age. 

Abd Xray ___
FINDINGS: One supine portable view of the abdomen is provided. A 
G-tube is 
seen within the stomach. The bowel gas pattern shows some mildly 
dilated 
loops of small bowel consistent with an ileus. There are 
multiple 
calcifications noted, most predominantly within the aorta. The 
lung bases 
appear clear. There is no evidence of free air. 
  
IMPRESSION: Bowel gas pattern consistent with an ileus. 

PATHOLOGY: ___ Maxillary Tissue

1. Left medial palatal margin (A): 

Negative for carcinoma. 

2. Left medial lip margin (B): 

Negative for carcinoma.  

3. Left inferior periorbital margin (C): 

Atypical cells present; cannot exclude carcinoma.

Note:  The atypical cells in the initial frozen section are 
suspicious for carcinoma.  The focus does not appear in the 
permanent section of the remaining frozen tissue.

4. Left medial periorbital margin (D): 

Negative for carcinoma.  

5. Left superior medial periorbital margin (E): 

Negative for carcinoma.  

6. Left proximal inferior orbital nerve margin (F): 

Small cluster of atypical basaloid cells within soft tissue 
consistent with basal cell carcinoma, see note.

Note:  There is a small focus at the edge of the permanent 
section of the remaining frozen tissue.  The focus did not 
appear in the original frozen section which was diagnosed as 
negative for carcinoma.  The focus is within fat.  The nerve is 
uninvolved.  Dr. ___ has reviewed this case and concurs 
with the diagnosis. 

7. Additional margin, left inferior periorbital (G): 

Small cluster of atypical basaloid cells consistent with basal 
cell carcinoma, see note.

Note:  There is a small focus at the edge of the permanent 
section of the remaining frozen tissue.  The focus did not 
appear in the original frozen section which was diagnosed as 
negative for carcinoma.  Dr. ___ has reviewed this case and 
concurs with the diagnosis. 

8. Coronoid process of left mandible (H-I): 

Portion of bone and muscle; negative for carcinoma.  

9. Posterior portion of left inferior turbinate (J): 

Nasal mucosa; negative for carcinoma.  

10. Total maxillectomy, left (K-AK): 

-Basal cell carcinoma, infiltrative type, present at inferior 
orbital rim margin (slides K, L, AH) see note. 

-Hypertrophic actinic keratosis, not seen at the examined 
specimen margins.

Note:  There is perineural invasion (best observed in slide R) 
and extension of tumor to underlying bone (best observed in 
slides AD, AF).  The tumor extends from the overlying epidermis 
near the ulcer.  In the superficial areas the tumor shows more 
typical features of basal cell carcinoma including larger 
nodules with peripheral palisading.  As the tumor infiltrates 
deeper, the cells are more pleomorphic with loss of palisading, 
and some areas show infiltration of smaller nests with a marked 
sclerotic stroma.  There are focal areas showing an adenoid 
pattern.

 
Brief Hospital Course:
This is an ___ yo F h/o HTN, DM, dementia with psychosis, basal 
cell carcinoma admitted for surgical resection of basal cell 
carcinoma of the left face.  Surgical resection and Gtube 
placement was performed ___ with post-op course complicated by 
hypercapnia, aspiration PNA, tachycardia, hypernatremia, and 
ARF. 

Operative and post op course
Pt was admitted for surgical resection of large left facial 
tumor. She underwent a resection of left facial tumor; partial 
orbitectomy; partial palatectomy soft tissue face and cheek; 
partial rhinectomy; local tissue rearrangment left eye. She 
tolerated the procedure well, and was extubated, and brought to 
the recovery room in stable condition. In the recovery room the 
pt was desating to ___ on room air, although remained stable 
the entire time. On face mask and 12L her sat was 96%. cxr in 
the PACU did not reveal pleural effusions, or any other acute 
lung pathology. post-op labs were unchanged and wnl, except for 
abg which was significant for a respiratory acidosis (PaCO2 61) 
likely related to anesthesia. However, that pt was unable to 
maintain saturation on room air, decision was made to send pt to 
the ICU. Overnight in the ICU the pt remained npo with 100% 
saturdation on non-rebreather. On POD#1, pt was weaned from 
supplemental oxygen to room air. On room air saturdation was 92% 
(baseline preop 94%). Pt was restarted on home medications, 
continued on Unasyn, and tube feeds were started. In addition, 
pt tolerated sips for comfort without coughing. On POD#2 pt was 
transferred to the medical service after which she underwent the 
following complications throughout her MICU and hospital stay: 
hypercapnia, aspiration PNA, GIB, tachycardia, hypernatremia, 
and ARF. 

These problems were managed over the course of a prolonged 
hospitalization to the point she was relatively stable with the 
main underlying problems being poor airway control with high 
aspiration risk and PEG tube management.  Plan for discharge on 
___ when she had a minor aspiration event with respiratory 
distress without hypoxia.  That evening she also pulled her PEG 
tube out.  Goals of care were readdressed the following day with 
the health care proxy who decided patient should be made DNR/DNI 
and focus on comfort measures only and to avoid PEG tube 
replacement. 

Continued issues for this patient include: 

1) Persistent aspiration risk: Patient must remain at atleast 45 
degree angle to prevent aspiration.  Pt allowed to have sips or 
small bites of pureed solids for comfort if she requests. She is 
written for concentrated liquid medications and suppositories as 
routes of medication.  She is written for morphine to be used 
for respiratory distress. 

2) Skin care: Patient has a hole at her G tube site which is 
draining any oral intake and some gastric secretions also.  
Barrier cream should be applied to the site twice daily with 
good skin care. Pegs around the G tube site should fall off on 
their own in ___ weeks, earlier removal ___ result in a 
peritonitis. 

3) Face care: Daily to qod facial cleansing with small 
quantities of normal saline. 

4) Pain control: Patient is written for round the clock tylenol 
and prn morphine. 

5) GOC: Patient is Comfort Measures Only and Do not hospitalize. 
 

5) HCP: ___ ___ 
.

 
Medications on Admission:
1. Alendronate 70mg weekly (___)  
2. Citalopram 20mg daily  
3. Ergocalciferol 50,000 units monthly  
4. Erythromycin (0.5%) ointment 5mg/gm left eye daily  
5. Glipizide XL 5mg daily  
6. Labetalol 400mg PO BID  
7. Levothyroxine 50mcg daily  
8. Lisinopril 10mg daily  
9. Olanzapine 2.5mg daily  
10. Miralax 17gm/dose daily  
11. Simvastatin 20mg nightly  
12. Acetaminophen 650mg q6hrs  
13. Aspirin 81mg daily  
14. Calcium carbonate 500 mg (1250mg) tablet BID  
15. Carboxymethylcellulsoe 1% drops 1 drop OS QID  
16. Dextra 70-hypromellose 1 drop every 2 hours while awake  
17. Colace 100mg BID  
18. Mg hydroxide 400mg/5mL 30ml twice weekly ___  
19. Mg oxide 800mg daily  
20. MVI  
21. Senna 1 tablet nightly  
22. Lacrilube one drop OS BID 
 
Discharge Medications:
1. white petrolatum-mineral oil 56.8-42.5 % Ointment Sig: One 
(1) Appl Ophthalmic QHS (once a day (at bedtime)).  
2. polyvinyl alcohol-povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic Q1H (every hour).  
3. olanzapine 5 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q6H (every 6 hours) as needed for 
discomfort/agitation.  
4. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
discomfort from constipation.  
5. acetaminophen 650 mg Suppository Sig: One (1) suppository
suppository Rectal every six (6) hours.  
6. morphine concentrate 100 mg/5 mL (20 mg/mL) Solution Sig: 
Five (5) mg PO q2h as needed for pain or respiratory distress.  
7. morphine concentrate 100 mg/5 mL (20 mg/mL) Solution Sig: Ten 
(10) mg PO q2h as needed for severe pain or respiratory 
distress.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis

Basal Cell Carcinoma
Supraventricular tachycardia secondary to B-blockade withdrawal
Pneumonia

Secondary Diagnoses
Chronic kidney disease
Hypothyroidism
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you.  You were admitted to the 
hospital for surgery to remove a cancer on your face. After the 
surgery, you had a number of post surgical complications 
including an arrythmia, a pneumonia, and a yeast infection on 
the body.  After all of this your health care proxy decided to 
focus on comfort based care for management of your symptoms.  
You had a feeding tube put in to protect your airway, but you 
continued to pull it out and it was decided that we not replace 
it.  Your family decided that it may be best to focus on comfort 
based care instead of aggressive medical treatments. 

A number of medications have been changed.  Please see the new 
attached list. 

 
 
Followup Instructions:
___